US08957078B2
Step 1: 1-(4-(2-amino-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxamido)pyridin-3-yl)piperidine-4-carboxylic acid
To a suspension of tert-butyl 1-[4-[(2-amino-6-fluoro-pyrazolo[1,5-a]pyrimidine-3-carbonyl)amino]-3-pyridyl]piperidine-4-carboxylate trifluoroacetic acetate (prepared according to a methodology similar to the one described in Example 1) (101 mg, 0.1773 mmol) in DCM (5 mL) was added TFA (1 mL, 12.98 mmol). The mixture was stirred at room temperature for 20 hours. The solvent was removed in vacuo and the residue azeotroped with DCM (×2) and diethyl ether (×2) to give title compound as a beige solid (98% Yield, di-TFA salt). 1H NMR (500 MHz, DMSO) δ 11.10 (s, 1H), 9.58 (dd, 1H), 8.91 (d, 1H), 8.86 (d, 1H), 8.68 (s, 1H), 8.56 (d, 1H), 6.92 (s, 2H), 3.10 (d, 2H), 2.99-2.82 (m, 2H), 2.53-2.50 (m, 1H), 2.15-1.93 (m, 4H); 19F NMR (471 MHz, DMSO) δ −74.10, −151.83; LC-MS ES+: 400.0.

reactant | tert-butyl 1-[4-[(2-amino-6-fluoro-pyrazolo[1,5-a]pyrimidine-3-carbonyl)amino]-3-pyridyl]piperidine-4-carboxylate | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC1=C(C=NC=C1)N1CCC(CC1)C(=O)OC(C)(C)C | C22H26FN7O3
reactant | TFA | 12.98 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-(2-amino-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxamido)pyridin-3-yl)piperidine-4-carboxylic acid | 98% Yield | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC1=C(C=NC=C1)N1CCC(CC1)C(=O)O | C18H18FN7O3
